US07495007B2
Preparation of intermediate E/Z-6-Chloro-3-(2,5-dichloro-benzylidene)-1,3-dihydro-indol-2-one
In a manner similar to the method described in Example 227b, 2,5-dichloro-benzaldehyde (5 g, 28.57 mmol) was reacted with 6-chlorooxindole (4.77 g, 28.57 mmol) and pyrrolidine (2.43 g, 34.3 mmol) in methanol to give title compound as yellow solid (10 g).

reactant | 2,5-dichloro-benzaldehyde | 28.57 mmol, 5 g | ClC1=C(C=O)C=C(C=C1)Cl | C7H4Cl2O
reactant | 6-chlorooxindole | 28.57 mmol, 4.77 g | ClC1=CC=C2CC(NC2=C1)=O | C8H6ClNO
reactant | pyrrolidine | 34.3 mmol, 2.43 g | N1CCCC1 | C4H9N
solvent | methanol | CO | CH4O
product | Z-6-Chloro-3-(2,5-dichloro-benzylidene)-1,3-dihydro-indol-2-one | 10 g | ClC1=CC=C2/C(/C(NC2=C1)=O)=C/C1=C(C=CC(=C1)Cl)Cl | C15H8Cl3NO
